US07825244B2
b. 4-(7-Fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(7-fluoro-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (“6.83 g”), as prepared without further purification in the previous step, LiCl (1.32 g, 31.1 mmol), water (832 μL, 46.2 mmol), and DMSO (6.0 mL) was stirred under air at 150° C. (oil bath) with an efficient condenser (to retain reagent water) for 9.5 h. The dark solution was then allowed to cool to rt, shaken with 1.0 M NaHCO3, and extracted with EtOAc (1×60 mL) and 9:1 DCM/MeOH (2×30 mL). The organic layers were combined, dried (Na2SO4), and concentrated to afford a thick clear amber oil. Flash chromatography of this residue (3:2 hexanes/EtOAc) afforded the title compound as a thick clear yellow syrup that was rubbed to a beige solid (2.37 g, 46% from 4-chloro-7-fluoroquinazoline). 1H-NMR (300 MHz, CDCl3) δ 9.23 (s, 1H), 8.20 (dd, 1H), 7.67 (dd, 1H), 7.42 (ddd, 1H), 4.42-4.25 (br m, 2H), 3.65 (m, 1H), 2.96 (m, 2H), 2.14-1.83 (m, 4H), 1.49 (s, 1H). LC/MS (ESI): calcd mass 331.2, found 332.1 (MH)+(weak).

reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 6.83 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=NC2=CC(=CC=C12)F | C20H24FN3O4
reactant | LiCl | 31.1 mmol, 1.32 g | [Li+].[Cl-]
reactant | NaHCO3 | 1.0 M | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | DMSO | 6.0 mL | CS(=O)C | C2H6OS
solvent | water | 46.2 mmol, 832 μL | O | H2O
product | 4-(7-Fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
